US08017607B2
In a manner similar to the method described in Example 3a, [1-(2,3-dichloro-phenyl)-meth-(E)-ylidene]-methyl-amine (3.76 g, 20.00 mmol) reacted with (Z)-2-(4-chloro-2-fluoro-phenyl)-5,5-dimethyl-hex-2-enenitrile (5.03 g, 20.00 mmol) in DMSO (30 mL) in the presence of KOH powder (5.72 g, 56.11 mmol) to give rac-(2S,3S,4S)-3-(4-chloro-2-fluoro-phenyl)-2-(2,3-dichloro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (1.85 g 21.0%). LC-MS (ES+) m/z Calcd for C22H22Cl3FN2+H [(M+H)+]: 441, found: 441.

reactant | [1-(2,3-dichloro-phenyl)-meth-(E)-ylidene]-methyl-amine | 20.00 mmol, 3.76 g | ClC1=C(C=CC=C1Cl)\C=N\C | C8H7Cl2N
reactant | (Z)-2-(4-chloro-2-fluoro-phenyl)-5,5-dimethyl-hex-2-enenitrile | 20.00 mmol, 5.03 g | ClC1=CC(=C(C=C1)/C(/C#N)=C/CC(C)(C)C)F | C14H15ClFN
reactant | KOH | 56.11 mmol, 5.72 g | [OH-].[K+]
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | rac-(2S,3S,4S)-3-(4-chloro-2-fluoro-phenyl)-2-(2,3-dichloro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 1.85 g, 21.0% | ClC1=CC(=C(C=C1)C1(C(NCC1CC(C)(C)C)C1=C(C(=CC=C1)Cl)Cl)C#N)F | C22H22Cl3FN2
